US07858640B2
[8-chloro-2-ethyl-3-(4-methanesulfonylbenzyl)-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of (3-amino-4-chlorophenoxy)acetic acid methyl ester (0.54 g), 2-(4-methanesulfonylbenzyl)-3-oxopentanoic acid ethyl ester (0.78 g), polyphosphoric acid (2.5 mL) and dioxane (10 mL) was heated at 130° C. for 17 hours. The mixture was diluted with water (100 mL) and the pH of this solution adjusted to 4 by the addition of sodium acetate. The mixture was extracted with ethyl acetate and the combined extracts were washed with saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed under reduced pressure to afford title compound as a honey coloured solid, 1.2 g.

reactant | (3-amino-4-chlorophenoxy)acetic acid methyl ester | 0.54 g | COC(COC1=CC(=C(C=C1)Cl)N)=O | C9H10ClNO3
reactant | 2-(4-methanesulfonylbenzyl)-3-oxopentanoic acid ethyl ester | 0.78 g | C(C)OC(C(C(CC)=O)CC1=CC=C(C=C1)S(=O)(=O)C)=O | C15H20O5S
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | 100 mL | O | H2O
product | [8-chloro-2-ethyl-3-(4-methanesulfonylbenzyl)-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(C(=C(NC2=C(C=C1)Cl)CC)CC1=CC=C(C=C1)S(=O)(=O)C)=O)=O | C22H22ClNO6S
